US09428528B2
Step 1 Preparation of tert-butyl ((4-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiophen-2-yl)methyl)carbamate
The compound is prepared from tert-butyl ((4-bromothiophen-2-yl)methyl)-carbamate (132 mg, 0.45 mmol) and 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide (200 mg, 0.45 mmol) in a manner analogous to Example 2 to give the tile compound (45 mg): 1H-NMR (400 MHz, CDCl3) 1.47 (s, 9H), 2.73 (bs, 1H), 4.26-4.38 (m, 1H), 4.39-4.52 (m, 2.5H), 4.53-4.61 (m, 1H), 4.65-4.72 (m, 0.5H), 4.87-5.03 (m, 1H), 5.12 (d, J=4.0 Hz, 1H), 5.87 (s, 1H), 7.06 (d, J=8.6 Hz, 1H), 7.20 (s, 1H), 7.32 (d, J=1.5 Hz, 1H), 7.39 (d, J=8.1 Hz, 2H), 7.54 (m, 2H).

reactant | tert-butyl ((4-bromothiophen-2-yl)methyl)-carbamate | 0.45 mmol, 132 mg | BrC=1C=C(SC1)CNC(OC(C)(C)C)=O | C10H14BrNO2S
reactant | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(trimethylstannyl)phenyl)propan-2-yl)acetamide | 0.45 mmol, 200 mg | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)[Sn](C)(C)C)O)CF)Cl
product | tert-butyl ((4-(4-((1R,2S)-2-(2,2-dichloroacetamido)-3-fluoro-1-hydroxypropyl)phenyl)thiophen-2-yl)methyl)carbamate | 45 mg | ClC(C(=O)N[C@@H]([C@H](O)C1=CC=C(C=C1)C=1C=C(SC1)CNC(OC(C)(C)C)=O)CF)Cl | C21H25Cl2FN2O4S
